US04652567
1,10a-Dihydropyrrolo[1,2-b]isoquinoline-3,10[2H,5H]-dione oxime
A mixture consisting of 2.5 g of 1,10a-dihydropyrrolo[1,2-b]isoquinoline-3,10[2H,5H]-dione in 20 ml of 95% ethanol (EtOH), 1.72 g of hydroxylamine hydrochloride in 10 ml of water and 3.7 g of sodium acetate trihydrate in 10 ml of water was refluxed for 7 hours and thereafter allowed to stand overnight at ambient temperature. The product crystallized from the reaction mixture to give 2.2 g of crystals. Recrystallization from 95% EtOH gave 1.4 g of crystals, m.p. 206°-209° C.

reactant | 1,10a-dihydropyrrolo[1,2-b]isoquinoline-3,10[2H,5H]-dione | 2.5 g | C1CC(N2CC=3C=CC=CC3C(C21)=O)=O | C12H11NO2
reactant | hydroxylamine hydrochloride | 1.72 g | Cl.NO
reactant | sodium acetate trihydrate | 3.7 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 1,10a-Dihydropyrrolo[1,2-b]isoquinoline-3,10[2H,5H]-dione oxime | 2.2 g | C1CC(N2CC=3C=CC=CC3C(C21)=O)=NO | C12H12N2O2
